US06448242B1
Preparation of 1,3-bis[4-[5-nitro-2-(3,4,5-trimethoxyphenyl)benzoyl]-1-piperazinyl]propane dihydrochloride
Concentrated hydrochloric acid (0.090 ml; 1.1 mmol) was added to a solution of 1,3-bis[4-[5-nitro-2- (3,4,5-trimethoxyphenyl)benzoyl]-1-piperazinyl]propane (230 mg; 0.27 mmol) in ethanol (5 ml) and the reaction mixture was concentrated under reduced pressure. A process of adding ethanol (10 ml) to the residue and concentrating the mixture under reduced pressure was performed twice to obtain the title compound as a pale yellow amorphous powder.

reactant | hydrochloric acid | 1.1 mmol, 0.090 ml | Cl | ClH
reactant | 1,3-bis[4-[5-nitro-2- (3,4,5-trimethoxyphenyl)benzoyl]-1-piperazinyl]propane | 0.27 mmol, 230 mg | [N+](=O)([O-])C=1C=CC(=C(C(=O)N2CCN(CC2)CCCN2CCN(CC2)C(C2=C(C=CC(=C2)[N+](=O)[O-])C2=CC(=C(C(=C2)OC)OC)OC)=O)C1)C1=CC(=C(C(=C1)OC)OC)OC | C43H50N6O12
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 1,3-bis[4-[5-nitro-2-(3,4,5-trimethoxyphenyl)benzoyl]-1-piperazinyl]propane dihydrochloride | Cl.Cl.[N+](=O)([O-])C=1C=CC(=C(C(=O)N2CCN(CC2)CCCN2CCN(CC2)C(C2=C(C=CC(=C2)[N+](=O)[O-])C2=CC(=C(C(=C2)OC)OC)OC)=O)C1)C1=CC(=C(C(=C1)OC)OC)OC | InChI=1S/C43H50N6O12.2ClH/c1-56-36-22-28(23-37(57-2)40(36)60-5)32-10-8-30(48(52)53)26-34(32)42(50)46-18-14-44(15-19-46)12-7-13-45-16-20-47(21-17-45)43(51)35-27-31(49(54)55)9-11-33(35)29-24-38(58-3)41(61-6)39(25-29)59-4;;/h8-11,22-27H,7,12-21H2,1-6H3;2*1H
